US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(2-oxo-1,3-oxazolidin-3-yl)-3-quinolinecarboxamide
To a flask containing ethyl 4-hydroxy-6-(2-oxo-1,3-oxazolidin-3-yl)-3-quinolinecarboxylate (0.17 g) is added p-chlorobenzylamine (1.0 mL). The reaction is tightly capped and heated to 185° C. over 1 hour. The reaction is cooled to room temperature and triturated with diethyl ether. The residue is adsorbed onto silica and chromatographed on silica eluting with 3% to 12% methanol in dichloromethane. The product-containing fractions are evaporated to give 0.12 g of the title compound as a off-white solid.

reactant | ethyl 4-hydroxy-6-(2-oxo-1,3-oxazolidin-3-yl)-3-quinolinecarboxylate | 0.17 g | OC1=C(C=NC2=CC=C(C=C12)N1C(OCC1)=O)C(=O)OCC | C15H14N2O5
reactant | p-chlorobenzylamine | 1.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(2-oxo-1,3-oxazolidin-3-yl)-3-quinolinecarboxamide | 0.12 g | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)N2C(OCC2)=O)C=C1 | C20H16ClN3O4
